US04008246
In 20 ml of dichloromethane was suspended 6.67 g. of 2-(β,β,β-trichloroethoxycarbonylamino)thiazol-4-ylacetic acid and, while the suspension was stirred under cooling with ice, 4.15 g. of finely crushed phosphorus pentachoride was added, whereupon the suspended acid was completely dissolved. Then, after an elapse of about 5 minutes, fresh crystalline substance separated. The mixture was stirred at room temperature for 1 hour, after which time the precipitates were collected by filtration and rinsed with petroleum ether. The procedure provided 6.59 g. (yield 84.8 %) of 2-(β,β,β-trichloroethoxycarbonylamino)thiazol-4-ylacetyl chloride.hydrochloride, melting point: 109.7° C (decomposition). Elemental analysis, for C8H6O3N2Cl4S. HCl

reactant | 2-(β,β,β-trichloroethoxycarbonylamino)thiazol-4-ylacetic acid | ClC(COC(=O)NC=1SC=C(N1)CC(=O)O)(Cl)Cl | C8H7Cl3N2O4S
reactant | phosphorus pentachoride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(β,β,β-trichloroethoxycarbonylamino)thiazol-4-ylacetyl chloride.hydrochloride | yield 84.8 % | Cl.ClC(COC(=O)NC=1SC=C(N1)CC(=O)Cl)(Cl)Cl | InChI=1S/C8H6Cl4N2O3S.ClH/c9-5(15)1-4-2-18-6(13-4)14-7(16)17-3-8(10,11)12;/h2H,1,3H2,(H,13,14,16);1H
